US08859580B2
[(2R,6S)-10-Hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-phenyl-methanone
2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (155 mg; alternatively, N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate may be used) is added to a solution of benzoic acid (60 mg) and ethyldiisopropylamine (0.25 mL) in dichloromethane (1 mL; DMF may be used as well). The resulting solution is stirred at ambient temperature for 15 min before it is cooled in an ice bath. (2R,6S)-6,11,11-Trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-ol (0.10 g) is added and the solution is warmed to room temperature and stirred overnight. The mixture is concentrated under reduced pressure and the residue is purified by HPLC on reversed phase (H2O/MeCN) to give the product as a beige solid.

reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | benzoic acid | 60 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | ethyldiisopropylamine | 0.25 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (2R,6S)-6,11,11-Trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-10-ol | 0.10 g | C[C@@]12C3=C(C[C@@H](NCC1)C2(C)C)C(=CC=C3)O | C15H21NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | [(2R,6S)-10-Hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-phenyl-methanone | OC1=CC=CC2=C1C[C@H]1N(CC[C@@]2(C1(C)C)C)C(=O)C1=CC=CC=C1 | C22H25NO2
